US07485731B2
A stirred suspension of N-Acetyl-L-aspartic acid (35.0 g, 199.9 mmol) in acetic anhydride (100 mL, 1.06 mol) was heated to 80° C. for ˜1 h until all the solid material had dissolved. The heating bath was removed, and the reaction mixture was stirred 4 h at ambient temperature. The product was collected by filtration and washed with tert-butyl methyl ether to afford N-acetyl-L-aspartic anhydride (27.8 g, 88%) as white crystals, [α]D−49.0° (c=2.5, Ac2O).

reactant | N-Acetyl-L-aspartic acid | 199.9 mmol, 35.0 g | C(C)(=O)N[C@@H](CC(=O)O)C(=O)O | C6H9NO5
reactant | acetic anhydride | 1.06 mol, 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-L-aspartic anhydride | 27.8 g, 88% | C(C)(=O)N[C@H]1CC(=O)OC1=O | C6H7NO4
